US07781440B2
8.1 8-Methyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
A mixture of 7.76 g (40.0 mmol) of ethyl 3-(4-pyrimidinyl)-3-oxopropionate, (prepared by analogy to the method described in patent DE 2705582), 6.0 g (40.0 mmol) 6-methyl-1,4,5,6-tetrahydro-pyrimidin-2-ylamine hydrochloride

reactant | ethyl 3-(4-pyrimidinyl)-3-oxopropionate | 40.0 mmol, 7.76 g | N1=CN=C(C=C1)C(CC(=O)OCC)=O | C9H10N2O3
reactant | 6-methyl-1,4,5,6-tetrahydro-pyrimidin-2-ylamine hydrochloride | 40.0 mmol, 6.0 g | Cl.CC1CCN=C(N1)N
product | 8-Methyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | CC1NC=2N(C(C=C(N2)C2=NC=NC=C2)=O)CC1 | C12H13N5O
